US09126969B2
A solution of 364 mg of 3-[3-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]-1,1-diisopropylurea in solution in 6.9 mL of a 4N solution of hydrochloric acid in dioxane is stirred at 22° C. for 4 hours. After evaporation, the reaction crude is purified by preparative HPLC with, as eluent, a gradient of water/acetonitrile containing respectively 0.07% of trifluoroacetic acid. 123 mg of 3-{3-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-1,1-diisopropylurea in the form of a trifluoroacetate salt are obtained in the form of a pink solid. 1H NMR (400 MHz, DMSO-d6, δ in ppm): 1.32 (d, J=7.0 Hz, 12H); 2.91 (s, 3H); 3.04 (m, 2H); 3.28 (m, 2H); 3.53 (m, 4H); 4.01 (m, 2H); 7.18 (d, J=8.0 Hz, 1H); 7.41 (d, J=11.5 Hz, 1H); 8.03 (s, 1H). ES m/z=443: MH+ (base peak)—m/z=342: (M+H—C6H15N)+.

reactant | 3-[3-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]-1,1-diisopropylurea | 364 mg | FC1=CC2=C(NC(=N2)C2=NN(C=C2NC(N(C(C)C)C(C)C)=O)C2OCCCC2)C=C1N1CCN(CC1)C | C27H39FN8O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-{3-[5-fluoro-6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-1,1-diisopropylurea | 123 mg | FC1=CC2=C(NC(=N2)C2=NNC=C2NC(N(C(C)C)C(C)C)=O)C=C1N1CCN(CC1)C | C22H31FN8O
